US04327026
A solution of 2.9 g (42 mmol) of sodium nitrite in 7 ml of water is added while stirring to a solution, cooled in ice, of 11 g (38.8 mmol) of 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one in 50 ml of water and 100 ml of 50 percent aqueous hydrofluoboric acid so that the sodium nitrite solution enters below the surface of the mixture (addition time ca 15 minutes). The mixture is stirred at 5° for a further 30 minutes and then left to stand at -24° for 22 hours. The precipitated crystals are filtered off, washed with isopropanol and ether and dried at 14 Torr and room temperature. There is obtained 5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepine-7-diazonium tetrafluoroborate (1:2) of melting point 120°-125°.

reactant | sodium nitrite | 42 mmol, 2.9 g | N(=O)[O-].[Na+]
reactant | 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 38.8 mmol, 11 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C16H14FN3O
reactant | hydrofluoboric acid | 100 ml | [H+].[B-](F)(F)(F)F
solvent | water | 7 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepine-7-diazonium tetrafluoroborate | F[B-](F)(F)F.FC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)[N+]#N)C)=O | InChI=1S/C16H12FN4O.BF4/c1-21-14-7-6-10(20-18)8-12(14)16(19-9-15(21)22)11-4-2-3-5-13(11)17;2-1(3,4)5/h2-8H,9H2,1H3;/q+1;-1
